US06316494B1
(+,−) cis 7-hydroxy-4-[4-(6-morpholinohexyloxy)-phenyl]-3-phenyl-chroman
(+,−) cis 7-Benzyloxy-4-[4-(6-morpholinohexyloxy)-phenyl]-3-phenyl-chroman (150 mg, 0.26 mmol) was dissolved in a solution of 1% Hydrochloride in ethanol (5 ml). The solution was added to a 10% palladium on carbon catalyst, and hydrogenated (1 atm.) overnight. The reaction mixture was filtered and evaporated to give an oil which solidified.

reactant | (+,−) cis 7-Benzyloxy-4-[4-(6-morpholinohexyloxy)-phenyl]-3-phenyl-chroman | 0.26 mmol, 150 mg | C(C1=CC=CC=C1)OC1=CC=C2[C@@H]([C@@H](COC2=C1)C1=CC=CC=C1)C1=CC=C(C=C1)OCCCCCCN1CCOCC1 | C38H43NO4
solvent | Hydrochloride | Cl | ClH
solvent | ethanol | 5 ml | C(C)O | C2H6O
catalyst | palladium on carbon | [Pd] | Pd
product | (+,−) cis 7-hydroxy-4-[4-(6-morpholinohexyloxy)-phenyl]-3-phenyl-chroman | OC1=CC=C2[C@@H]([C@@H](COC2=C1)C1=CC=CC=C1)C1=CC=C(C=C1)OCCCCCCN1CCOCC1 | C31H37NO4
